US07759349B2
Preparation of 2-[4-(2-Methoxyethoxy)phenyl]-3-chloro-6-propoxyimidazo[1,2-b]pyridazine (Compound 91)
A stirred mixture of 2-[4-(2-methoxyethoxy)phenyl]-6-propoxyimidazo[1,2-b] pyridazine (164 mg, 0.50 mmol), N-chlorosuccinimide (67 mg, 29.4 mmol) and chloroform (3 mL) was heated under reflux for 1.5 hours. The mixture was cooled and washed with saturated aqueous sodium bicarbonate solution, dried (MgSO4) and evaporated. The residue was purified by radial chromatography on silica gel. Elution with 0-2% methanol in dichloromethane afforded Compound 91 (158 mg, 87%) as an off-white solid. 1H n.m.r. (CDCl3) δ 1.07, t, J=7.5 Hz, 3H; 1.75-2.0, m, 2H; 3.47, s, 3H; 3.78, t, J=4 Hz, 2H; 4.19, t, J=4 Hz, 2 H; 4.38, t, J=6.5 Hz, 2H; 6.74, d, J=9.5 Hz, 1H; 7.04, d, J=8.5 Hz, 2H; 7.81, d, J=9.5 Hz, 1H; 8.06, d, J=8.5 Hz, 2H. Mass spectrum (APCI+) m/z 362/364 (M+H, 100%).

reactant | 2-[4-(2-methoxyethoxy)phenyl]-6-propoxyimidazo[1,2-b] pyridazine | 0.50 mmol, 164 mg | COCCOC1=CC=C(C=C1)C=1N=C2N(N=C(C=C2)OCCC)C1 | C18H21N3O3
reactant | N-chlorosuccinimide | 29.4 mmol, 67 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[4-(2-Methoxyethoxy)phenyl]-3-chloro-6-propoxyimidazo[1,2-b]pyridazine | COCCOC1=CC=C(C=C1)C=1N=C2N(N=C(C=C2)OCCC)C1Cl | C18H20ClN3O3
